### ISSUE TITLE
grind causes a kernel error

### ISSUE THREAD

**Issue by sonmarcho** [leanprover/lean4#14521]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

This is a regression introduced by v4.33.0-rc1 (the example works fine with 4.32.0):

```lean
import Lean

example (i : BitVec (id 32)) (hne : i ≠ 0#32) : i ≠ 0 := by
  /- Error:
  (kernel) application type mismatch
    eq_false_of_decide (eagerReduce (Eq.refl false))
  argument has type
    false = false
  but function has type
    decide (0 = 0) = false → (0 = 0) = False
  -/
  grind
```

**Comment by rkirov** [comment]
I came to report a similar kernel error after elaboration, so just adding one more repo

```lean
import Mathlib
open scoped Matrix
variable {F V : Type*} [Field F] [AddCommGroup V] [Module F V]


/--
(kernel) application type mismatch
  eq_false_of_decide (Eq.refl false)
argument has type
  false = false
but function has type
  decide (2 = 0) = false → (2 = 0) = False
-/
noncomputable def bad : MultilinearMap ℚ (fun _ : Fin 3 => ℚ) ℚ where
  toFun v := v 0 * v 1 * v 2
  map_update_add'  := by intro _ v i x y; fin_cases i <;> simp <;> ring
  map_update_smul' := by intro _ v i c x; fin_cases i <;> simp <;> ring
```
